US04269788
4 g. of 1-phenyl-2,5-cyclohexadien-1-ethylamine hydrochloride are placed in 100 ml. of absolute methanol. After the addition of 3.3 g. (6.5 equivalents) of p-formaldehyde, 1 g. (about 1 equivalent) of sodium cyanoborohydride and 5 g. of molecular sieve 3A, the mixture is stirred at room temperature overnight and subsequently worked-up as follows: The mixture is poured into aqueous 3 N hydrochloric acid, stirred for 10 minutes, made basic with concentrated aqueous ammonia, extracted with ethyl acetate, washed with water, dried with sodium sulfate and filtered. There is obtained an oily product which is chromatographed on 80 g. of silica gel with methylene chloride/methanol (10:1). The yellow oil obtained (N,N-dimethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine) is converted in the customary manner into the (1:1)-maleate which has a melting point of 129°-131° C.

reactant | 1-phenyl-2,5-cyclohexadien-1-ethylamine hydrochloride | Cl.C1(=CC=CC=C1)C1(C=CCC=C1)CCN
reactant | sodium cyanoborohydride | about 1 equivalent | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
reactant | ammonia | N | H3N
reactant | methanol | CO | CH4O
product | N,N-dimethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine | CN(CCC1(C=CCC=C1)C1=CC=CC=C1)C | C16H21N
